US06995157B2
b) 6-(4-chlorophenyl)-4-methyl-4,5-dihydro-1,2,4-triazin-3-one
68.24 g (267 mmol) of 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone hydrazone was dissolved in 400 ml of tetrahydrofuran. To this solution was added 30 ml of 20% potassium tert-butoxide in tetrahydrofuran. The resulting reaction mixture was refluxed for two hours, concentrated in vacuo, slurried in 500 ml of 50/50 diethyl ether/hexanes and filtered. The golden solid was washed with water and dried yielding 30 g of the title compound, mp 195–197° C.

reactant | 2-(N-methyl-N-(methoxycarbonyl)-amino)-4′-chloroacetophenone hydrazone | 267 mmol, 68.24 g | CN(C(=O)OC)CC(C1=CC=C(C=C1)Cl)=NN | C11H14ClN3O2
reactant | potassium tert-butoxide | 30 ml | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 6-(4-chlorophenyl)-4-methyl-4,5-dihydro-1,2,4-triazin-3-one | 30 g | ClC1=CC=C(C=C1)C=1CN(C(NN1)=O)C | C10H10ClN3O
